US04505739
4.3 g (0.03 mole) of 3-amino-5-t-butylpyrazole as prepared in Example 1 and 3 g of triethylamine were dissolved in 30 ml of methylene chloride. To this solution was added dropwise 3.6 g of cyclobutanecarboxylic acid chloride dissolved in 30 ml of carbon tetrachloride. The resulting mixture was allowed to stand at room temperature over night. Thereafter, water was added thereto followed by shaking it. Crystals thus formed were collected by filtration and washed with water and carbon tetrachloride to obtain 5-t-butyl-3-cyclobutanecarbonylaminopyrazole.

reactant | 3-amino-5-t-butylpyrazole | 0.03 mole, 4.3 g | NC1=NNC(=C1)C(C)(C)C | C7H13N3
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | cyclobutanecarboxylic acid chloride | 3.6 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-t-butyl-3-cyclobutanecarbonylaminopyrazole | C(C)(C)(C)C1=CC(=NN1)NC(=O)C1CCC1 | C12H19N3O
